US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and N-morpholinecarbonyl chloride, there is obtained ethyl N-(morpholinecarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 379 (12), 350 (22), 293 (77), 194 (100), 167 (98), 114 (5);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | N-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | ethyl N-(morpholinecarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | N1(CCOCC1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C22H25N3O3
